US04624955
6-Ethyl-3-(4-tolyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine
4-Chloro-1-ethyl-5-(4-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine (4.40 g) and hydroxylamine hydrochloride (14.0 g) were mixed dry and then suspended in a solution prepared from 200 ml of glacial acetic acid and 5 ml of concentrated hydrochloric acid. The reaction mixture was then brought to reflux with mechanical stirring. After two hours, the reaction was allowed to cool and then the acetic acid was evaporated. The residue was distributed between dichloromethane and an aqueous sodium bicarbonate solution and then the organic phase was dried and evaporated. The crude product was chromatographed over 230-400 mesh silica gel (10% ethyl acetate/dichloromethane). The appropriate fractions were combined, evaporated, and then washed with pentane, giving 2.48 g of product, mp 221°-222° C.

reactant | 4-Chloro-1-ethyl-5-(4-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine | 4.40 g | ClC1=C2C(=NC=C1C(C1=CC=C(C=C1)C)=O)N(N=C2)CC | C16H14ClN3O
reactant | hydroxylamine hydrochloride | 14.0 g | Cl.NO
product | 6-Ethyl-3-(4-tolyl)-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine | 2.48 g | C(C)N1N=CC2=C1N=CC=1C2=NOC1C1=CC=C(C=C1)C | C16H14N4O
